US07157487B2
In THF (15 ml) was dissolved methyl 1-benzylindole-3-carboxylate (606.1 mg, 2.284 mmol). To the resulting solution was added 0.25N NaOH (8.0 ml) and the mixture was stirred at 70° C. for 18 hours. After the reaction mixture was cooled to room temperature, the solvent was distilled off under reduced pressure. The residue thus obtained was acidified with 1N HCl (5.5 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give 1-benzylindole-3-carboxylic acid (100%) as a light pink amorphous substance.

reactant | methyl 1-benzylindole-3-carboxylate | 2.284 mmol, 606.1 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)OC | C17H15NO2
reactant | NaOH | 0.25N, 8.0 ml | [OH-].[Na+]
reactant | HCl | 1N, 5.5 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-benzylindole-3-carboxylic acid | 100% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)O | C16H13NO2
